* source LED MULTIPLEXER
Q_Q-C1         N04822 N00506 0 Q2N3904
Q_Q-C2         N04818 N00499 0 Q2N3904
Q_Q-C3         N04814 N00492 0 Q2N3904
Q_Q-R1         N06025 N05654 N05542 Q2N3904
Q_Q-R2         N06025 N05701 N05421 Q2N3904
Q_Q-R3         N06025 N05750 N05419 Q2N3904
R_R-C1         V+ N00506  68 TC=0,0 
R_R-C2         0 N00499  68 TC=0,0 
R_R-C3         0 N00492  68 TC=0,0 
D_LED-R3C3         N05419 N04814 LW_541C-TYP 
D_LED-R3C2         N05419 N04818 LW_541C-TYP 
D_LED-R3C1         N05419 N04822 LW_541C-TYP 
D_LED-R2C2         N05421 N04818 LW_541C-TYP 
D_LED-R2C3         N05421 N04814 LW_541C-TYP 
D_LED-R2C1         N05421 N04822 LW_541C-TYP 
D_LED-R1C1         N05542 N04822 LW_541C-TYP 
D_LED-R1C2         N05542 N04818 LW_541C-TYP 
D_LED-R1C3         N05542 N04814 LW_541C-TYP 
R_R-R1         N05654 V+  560 TC=0,0 
R_R-R2         N05701 V+  560 TC=0,0 
R_R-R3         N05750 V+  560 TC=0,0 
V_Pin-R4         V+ 0 5Vdc
R_Potentiometer         V+ N06025  {OHM} TC=0,0 
.PARAM  ohm=.001
